US08809525B2
5-(Pyrimidin-2-yl)-1,2,4-triazin-3-amine (1.0 g, 23%) was prepared from 3-(methylsulfonyl)-5-(pyrimidin-2-yl)-1,2,4-triazine (5.0 g, crude) and 0.5 M ammonia in THF (20 mL) according to the general procedure of Preparation 2.

reactant | 3-(methylsulfonyl)-5-(pyrimidin-2-yl)-1,2,4-triazine | 5.0 g | CS(=O)(=O)C=1N=NC=C(N1)C1=NC=CC=N1 | C8H7N5O2S
reactant | ammonia | 0.5 M | N | H3N
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 5-(Pyrimidin-2-yl)-1,2,4-triazin-3-amine | 1.0 g, 23% | N1=C(N=CC=C1)C=1N=C(N=NC1)N | C7H6N6
